US07067506B2
Step 8: 1-(5-Methyl-pyrazin-2-yl)-3-[5-methyl-2-(1,2,3,4-tetrahydro-quinolin-3-ylmethoxy)-phenyl]-urea.
A stirred suspension of the crude 3-{4-Methyl-2-[3-(5-methyl-pyrazin-2-yl)-ureido]-phenoxymethyl}-3,4-dihydro-2H-quinoline-1-carboxylic acid benzyl ester (6.6 mg, 12 μmol) was heated in 5 mL EtOAc on a heat gun until in solution. The clear solution was cooled to rt and treated with triethylamine (3.4 μL, 24 μmol) followed by Pearlman's catalyst (20% palladium hydroxide on carbon, 9 mg). The mixture was put through a vacuum/purge cycle three times with hydrogen gas and then held under 1 atmosphere hydrogen pressure for 1 hour. The reaction was filtered through GF/F filter paper with EtOAc and concentrated to a white solid which corresponds to the desired product (4.7 mg, 100%). 1H-NMR (400 MHz, CDCl3/CD3OD) δ8.23 (s, 1H), 8.18 (s, 1H), 7.96 (s, 1H), 7.04(t, 1H), 6.97 (d, 1H, 6.81 (m, 2H), 6.67 (t, 1H), 6.58 (d, 1H, 4.04 (m, 2H), 3.57 (d, 1H, 3.26 (t, 1H), 2.92 (ddd, 2H), 2.64 (m, 1H), 2.34 (s, 3H), 2.31 (s, 3H) LRMS (APCI, Positive) m/e 404.2 (M+1).

reactant | 3-{4-Methyl-2-[3-(5-methyl-pyrazin-2-yl)-ureido]-phenoxymethyl}-3,4-dihydro-2H-quinoline-1-carboxylic acid benzyl ester | 12 μmol, 6.6 mg | C(C1=CC=CC=C1)OC(=O)N1CC(CC2=CC=CC=C12)COC1=C(C=C(C=C1)C)NC(=O)NC1=NC=C(N=C1)C | C31H31N5O4
reactant | triethylamine | 24 μmol, 3.4 μL | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
catalyst | Pearlman's catalyst | 9 mg | [OH-].[OH-].[Pd+2]
product | 1-(5-Methyl-pyrazin-2-yl)-3-[5-methyl-2-(1,2,3,4-tetrahydro-quinolin-3-ylmethoxy)-phenyl]-urea | CC=1N=CC(=NC1)NC(=O)NC1=C(C=CC(=C1)C)OCC1CNC2=CC=CC=C2C1 | C23H25N5O2
